US05728835
1-(2-Chloroethyl)-4-(4-fluorobenzoyl)piperidine hydrochloride
In an atmosphere of dry air, 4-(4-fluorobenzoyl)-1-(2-hydroxyethyl)piperidine (1.96 g, 7.8 mmol) was dissolved in methylene chloride (10 ml) to which, with cooling in an ice bath, were subsequently added dropwise DMF (0.1 ml) and thionyl chloride (2.5 ml, 34.2 mmol). After 7 hours of stirring at room temperature, the solvent was removed by evaporation, and the resulting residue was subjected to azeotropic distillation using benzene (15 ml×2). Thereafter, the thus obtained residue was washed with an ether-methylene chloride (4:1) mixture solution (30 ml) to obtain 2.3 g (96.3%) of the title compound in the form of light beige powder.

reactant | 4-(4-fluorobenzoyl)-1-(2-hydroxyethyl)piperidine | 7.8 mmol, 1.96 g | FC1=CC=C(C(=O)C2CCN(CC2)CCO)C=C1 | C14H18FNO2
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 34.2 mmol, 2.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Chloroethyl)-4-(4-fluorobenzoyl)piperidine hydrochloride | 2.3 g, 96.3% | Cl.ClCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | InChI=1S/C14H17ClFNO.ClH/c15-7-10-17-8-5-12(6-9-17)14(18)11-1-3-13(16)4-2-11;/h1-4,12H,5-10H2;1H
